* Problem 3 - Diode simulation

.include ../ciceda/models/ptm_diode_130.spi

.option TNOM=27 GMIN=1e-20

V1 VDD 0 dc 5
V2 VSS 0 dc 0
D1 VDD VSS pn_sub

.dc V1 0.01 2  0.01
.plot I(V2)
